US04146718
N-(6-Amino-2,3-dichlorobenzyl)glycine Ethyl Ester
A solution of 6-amino-2,3-dichlorobenzyl alcohol (10.0 g., 0.0521 mol) in 250 ml. of boiling benzene was treated with a slow-stream of dry hydrogen chloride for 0.5 hour. The finely divided suspension was cooled slightly, thionyl chloride (12.4 g, 0.104 mol) was added in one portion, and reflux was continued for 2.5 hours. The solution was evaporated in vacuo to remove excess thionyl chloride and hydrogen chloride, and the residue was redissolved in 250 ml. benzene. This solution was added over 1 hour to a reluxing mixture of glycine ethyl ester hydrochloride (29.1 g, 0.208 mol) and triethylamine (31.6 g, 0.313 mol) in 600 ml. CH2Cl2. Reflux was continued for 1 hour, the mixture was allowed to stand overnight and was then extracted with 1N HCl. The extract was washed with CH2Cl2 and ether, made slightly alkaline with concentrated NH4OH and extracted with ether. After drying (K2CO3) and evaporation there remained 8.3 g (58%) of the title product as a light yellow oil which crystallized. The analytical sample was obtained from Skellysolve B as white needles, mp. 60°-61° C.

reactant | 6-amino-2,3-dichlorobenzyl alcohol | 0.0521 mol, 10.0 g | NC1=CC=C(C(=C1CO)Cl)Cl | C7H7Cl2NO
reactant | hydrogen chloride | Cl | ClH
reactant | thionyl chloride | 0.104 mol, 12.4 g | S(=O)(Cl)Cl | Cl2OS
reactant | glycine ethyl ester hydrochloride | 0.208 mol, 29.1 g | Cl.C(C)OC(CN)=O
reactant | triethylamine | 0.313 mol, 31.6 g | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | benzene | C1=CC=CC=C1 | C6H6
product | N-(6-Amino-2,3-dichlorobenzyl)glycine Ethyl Ester | C(C)OC(CNCC1=C(C(=CC=C1N)Cl)Cl)=O | C11H14Cl2N2O2
